US07176242B2
3-{[Butyl(methyl)amino]methyl}-N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethynylphenyl)cyclopropyl]amino}-2-hydroxypropyl)-5-(1,3-oxazol-2-yl)benzamide dihydrochloride
Methyl 3-{[butyl(methyl)amino]methyl}-5-(1,3-oxazol-2-yl)benzoate (30 mg, 0.1 mmol) is dissolved in 2:1:1 tetrahydrofuran/methanol/water (4 mL), and lithium hydroxide monohydrate is added (10 mg, 0.2 mmol), and the reaction stirred 16 h. The solution is concentrated under reduced pressure. The residue is redissolved in DMF (1 mL), and diisopropylethylamine (70 μL, 0.4 mmol), HATU (57 mg, 0.15 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethynylphenyl)cyclopropyl]amino}butan-2-ol dihydrochloride (203 mg, 0.5 mmol) are added. The reaction stirred at room temperature 2 h. The reaction mixture is diluted with ethyl acetate, washed with water, saturated sodium bicarbonate, brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 9–10% methanol/methylene chloride) provides the title compound as the free base. The residue is dissolved in diethyl ether (3 mL) and 1N hydrochloric acid in diethyl ether (1 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 627.3 [M+H]+.

reactant | Methyl 3-{[butyl(methyl)amino]methyl}-5-(1,3-oxazol-2-yl)benzoate | 0.1 mmol, 30 mg | C(CCC)N(C)CC=1C=C(C(=O)OC)C=C(C1)C=1OC=CN1 | C17H22N2O3
reactant | diisopropylethylamine | 0.4 mmol, 70 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.15 mmol, 57 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethynylphenyl)cyclopropyl]amino}butan-2-ol dihydrochloride | 0.5 mmol, 203 mg | Cl.Cl.N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C#C)O)CC1=CC(=CC(=C1)F)F
solvent | tetrahydrofuran methanol water | 4 mL | O1CCCC1.CO.O
solvent | lithium hydroxide monohydrate | O.[OH-].[Li+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{[Butyl(methyl)amino]methyl}-N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethynylphenyl)cyclopropyl]amino}-2-hydroxypropyl)-5-(1,3-oxazol-2-yl)benzamide dihydrochloride | Cl.Cl.C(CCC)N(C)CC=1C=C(C(=O)N[C@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C#C)O)CC2=CC(=CC(=C2)F)F)C=C(C1)C=1OC=CN1 | InChI=1S/C37H40F2N4O3.2ClH/c1-4-6-13-43(3)24-27-15-28(21-29(16-27)36-40-12-14-46-36)35(45)42-33(20-26-18-31(38)22-32(39)19-26)34(44)23-41-37(10-11-37)30-9-7-8-25(5-2)17-30;;/h2,7-9,12,14-19,21-22,33-34,41,44H,4,6,10-11,13,20,23-24H2,1,3H3,(H,42,45);2*1H/t33-,34+;;/m0../s1
